US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-2-methoxybenzamide
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 5-chloro-2-methoxybenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 5-chloro-2-methoxybenzoic acid | ClC=1C=CC(=C(C(=O)O)C1)OC | C8H7ClO3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-5-chloro-2-methoxybenzamide | CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=CC(=C1)Cl)OC)=O | C18H19ClN2O2
